US08748469B2
N-(4-Chlorobenzyl)-2-iodoaniline
To a solution of 2-iodoaniline (280 mg, 1.82 mmol) in acetonitrile (6 mL) was added K2CO3 (212 mg, 1.54 mmol) and 4-chlorobenzyl bromide (276 mg, 1.34 mmol). After refluxing overnight under a nitrogen atmosphere, the reaction mixture was diluted with ethyl acetate and filtered. The solvent was removed under reduced pressure and the crude product was used in next step.

reactant | 2-iodoaniline | 1.82 mmol, 280 mg | IC1=C(N)C=CC=C1 | C6H6IN
reactant | K2CO3 | 1.54 mmol, 212 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chlorobenzyl bromide | 1.34 mmol, 276 mg | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Chlorobenzyl)-2-iodoaniline | ClC1=CC=C(CNC2=C(C=CC=C2)I)C=C1 | C13H11ClIN
